US08633173B2
8-(4-Methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine and (4-methylsulfonylphenyl)boronic acid in a manner analogous to Step 2c to afford a white solid (67%) MP=236-237° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.28 (s, 1H), 8.42 (d, J=7.8 Hz, 2H), 8.07 (s, 1H), 8.06 (d, J=7.8 Hz, 2H), 6.58 (bs, 2H), 3.29 (s, 3H). MS=356.33 (MH)+.

reactant | 8-bromo-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)N | C7H4BrF3N4
reactant | (4-methylsulfonylphenyl)boronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | 8-(4-Methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)N | C14H11F3N4O2S
